US08030338B2
According to the method of the present invention, 1-(1-benzoyloxymethyl-2-hydroxyethyl)oxymethyl-2-nitroimidazole was produced. That is, 9.2 g of glycerin was dissolved in 100 ml of chloroform, 50 ml of triethylamine was added, and under ice cooling, 14 g of benzoyl chloride was dissolved in 50 ml of chloroform and added dropwise to the above-obtained mixture while stirring. After completion of the dropwise addition, the mixture was returned to room temperature, and stirring was continued for one hour at room temperature. 100 ml of water was added to wash the mixture with water, and then the mixture was concentrated under reduced pressure and purified by silica gel column chromatography (elution solvent; isopropyl ether:methanol 10:0→7:3) (yield; 14.1 g). To 9 g of this product, 100 ml of dimethoxymethane was added, and 1 g of phosphorus pentoxide was slowly added at room temperature while stirring. The mixture was allowed to react continuously for 16 hours. After completion of the reaction, 200 ml of water and 100 ml of ethyl acetate were added thereto, and liquid-liquid extraction was performed. The ethyl acetate layer was dried over sodium sulfate, and then concentrated under reduced pressure. The resultant concentrate was purified by silica gel column chromatography (elution solvent; normal hexane: isopropyl ether 10:0→5:5), to obtain 9.8 g of 4-benzoyloxymethyl-1,3-dioxolane.

reactant | glycerin | 9.2 g | OCC(O)CO | C3H8O3
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 14 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | 100 ml | O | H2O
reactant | water | 200 ml | O | H2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-benzoyloxymethyl-1,3-dioxolane | 9.8 g | C(C1=CC=CC=C1)(=O)OCC1OCOC1 | C11H12O4
